US08431710B2
To a solution of 8.74 moles of urea in 2.2 L of methanol in a 3-necked flask, equipped with a mechanical stirrer, a reflux condenser and a dropping funnel was added dropwise over about 3 hours under N2 atmosphere an equimolar amount of 4-ethoxy-1,1,1-trifluoro-3-buten-2-one (ETFBO) which had been manufactured by addition of trifluoroacetyl chloride to ethyl vinyl ether. The temperature of the reaction mixture was kept below 15° C. After 15 min, 1.35 L of a concentrated HCl solution (32%) was added to the cooled suspension obtained and a clear solution was obtained. The solution was slowly heated to 60° C. and after 2 hours stirring, a suspension was formed. After overnight stirring at 60° C. and subsequently 1 h stirring at 0 to 5° C., the precipitate was filtered off. The residue was washed with water until neutral pH and subsequently with hexane (ca. 500 ml). After overnight drying on a rotary evaporator under reduced pressure in a 2 L flask, 6-(trifluoromethyl)pyrimidin-2(1H)-on was obtained as colorless crystals. The yield was 1.2 kg, (85% of the theoretical yield).

reactant | urea | 8.74 moles | NC(=O)N | CH4N2O
reactant | 4-ethoxy-1,1,1-trifluoro-3-buten-2-one | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | trifluoroacetyl chloride | FC(C(=O)Cl)(F)F | C2ClF3O
reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
reactant | HCl | 1.35 L | Cl | ClH
solvent | methanol | 2.2 L | CO | CH4O
product | 6-(trifluoromethyl)pyrimidin-2(1H)-on | FC(C1=CC=NC(N1)=O)(F)F | C5H3F3N2O
